US04629689
Preparation of m-maleimidobenzoyl thyroxine methyl ester (as described by Monji, N., Malkus, H, and Castro, A., Biochem. Biophys. Res. Commun., 1978, 85, 671-677). m-Maleimidobenzoic acid (225 mg, 1.06 mmol) was dissolved in 4 mL of thionyl chloride and refluxed for 30 minutes. Removal of excess thionyl chloride under reduced pressure afforded m-maleimidobenzoyl chloride as a pale yellow solid. The acid chloride (220 mg dissolved in 10 mL of tetrahydrofuran) was added dropwise to a stirred suspension of 400 mg (0.51 mmol) of thyroxine methyl ester and 400 mg of sodium carbonate. After the addition was complete, the mixture was refluxed for 30 minutes. Removal of the solvent under reduced pressure yielded a crude yellow product. The material was purified by silica gel chromatography with chloroform as the eluent. 1NMR (CDCl3) δ 3.85 (3 H,s), 3.92 (1 H,m), 5.77 (1 H,s), 6.90 (2 H,s), 7.12 (2 H,s), 7.57 (2 H,m), 7.70 (2 H,s), 7.80 (2 H,m). Anal. calcd. for C27H18I4N2O7 : C, 32.8; H, 1.82; N, 2.80. Found: C, 32.7; H, 2.09; N, 2.42.

reactant | m-maleimidobenzoyl thyroxine methyl ester | COC([C@@H](NC(C1=CC(=CC=C1)N1C(C=CC1=O)=O)=O)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C27H18I4N2O7
reactant | m-Maleimidobenzoic acid | 1.06 mmol, 225 mg | C1(C=CC(N1C=1C=C(C(=O)O)C=CC1)=O)=O | C11H7NO4
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
product | m-maleimidobenzoyl chloride | C1(C=CC(N1C=1C=C(C(=O)Cl)C=CC1)=O)=O | C11H6ClNO3
